US05276158
Preparation of 1-adamantyl-3-dimethylamino-2-propen-1-one--Compound (VIA)
A solution of 17.83 g (0.10 mol) of 1-adamantyl methyl ketone in 35.75 g (0.30 mol) of dimethylformamide dimethylacetal was heated at reflux for 24 hours. After cooling and removal of the solvent in vacuo at 45° to 50° C., the residue was purified by silical gel chromatography to yield 8.64 g (37%) of a white solid: Rf 0.20 in 50% EtOAc/Ligroin; 1H NMR (CDCl3) δ 1.68 (S, 6H, the δ hydrogens of the adamantyl ring, methylene protons at the farthest position from the substituent), 1.81 (S, 6H, the β hydrogens of the adamantyl ring, methylene protons at the closest position to the substituent), 2.00 (S, 3H, the three bridgehead protons, 2.90 (br S, 6H, N(CH3)2), 5.20 (d, 1H, J=14 Hz, O=C-CH), 7.60 (d 1H, J=14 Hz, =C-N<). All analytical data confirmed the assigned structure.

reactant | 1-adamantyl methyl ketone | 0.10 mol, 17.83 g | CC(=O)C12CC3CC(CC(C1)C3)C2 | C12H18O
reactant | dimethylformamide dimethylacetal | 0.30 mol, 35.75 g | COC(N(C)C)OC | C5H13NO2
product | 1-adamantyl-3-dimethylamino-2-propen-1-one | 8.64 g, 37% | C12(CC3CC(CC(C1)C3)C2)C(C=CN(C)C)=O | C15H23NO
